US07084115B2
Crystalline sodium phytate C (2 g) was dissolved with sonication in water (10 ml) and converted to the free acid by passage through a column of Dowex 50x8-200 ion-exchange resign. The column eluate was adjusted to pH 8 with pyridine and evaporated to dryness. The residue was dissolved in water (14 ml) and pyridine (56 ml) containing N,N-dicyclohexylcarbodiimide (438 mg, 1 equiv) was added. The reaction mixture was heated to 65° C. for 18 h and evaporated to dryness. The residue was extracted with water (4×10 ml) filtered and the filtrate was evaporated to dryness to give the IHP monopyrophosphate pyridinium salt.

reactant | sodium phytate | C1(C(C(C(C(C1OP(=O)([O-])[O-])OP(=O)([O-])[O-])OP(=O)([O-])[O-])OP(=O)([O-])[O-])OP(=O)([O-])[O-])OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 56 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 10 ml | O | H2O
product | monopyrophosphate pyridinium salt | [NH+]1=CC=CC=C1.[O-]P([O-])(=O)OP(=O)([O-])[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1 | InChI=1S/4C5H5N.H4O7P2/c4*1-2-4-6-5-3-1;1-8(2,3)7-9(4,5)6/h4*1-5H;(H2,1,2,3)(H2,4,5,6)
